US07109354B2
b) 4-(5-Amino-pentyloxy)-benzoic acid methyl ester
A suspension of 4-[5-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-pentyloxy]-benzoic acid methyl ester (1 g, 2.72 mmol, Example 283. step a) and hydrazine (98.4 μL, 3.13 mmol) in MeOH:H2O (10 mL, 4:1) was heated to 65° C. for 2 hrs. Additional hydrazine was added (171 μL, 5.44 mmol) to the reaction mixture at rt. The reaction mixture was heated to 70° C. for 2 hrs then stirred overnight at rt. Potassium carbonate (30 mL, 1N aqueous) and methylene chloride (200 mL) were added to the reaction. The organic layer was dried over magnesium sulfate. The solvents were removed in vacuo to afford the title compound as a white solid (500 mg, 77%). 1H-NMR (CDCl3): δ 7.95–8.00 (m, 2H), 6.88–6.92 (m, 2H), 4.02 (t, 2H, J=6.43 Hz), 3.88 (s, 3H), 2.71–2.76 (m, 2H), 1.79–1.86 (m, 2H), 1.49–1.56 (m, 4H).

reactant | 4-[5-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-pentyloxy]-benzoic acid methyl ester | COC(C1=CC=C(C=C1)OCCCCCN1C(C2=CC=CC=C2C1=O)=O)=O | C21H21NO5
reactant | hydrazine | 3.13 mmol, 98.4 μL | NN | H4N2
reactant | H2O | 10 mL | O | H2O
reactant | Potassium carbonate | 1N, 30 mL | C([O-])([O-])=O.[K+].[K+]
solvent | MeOH | CO | CH4O
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
product | 4-(5-Amino-pentyloxy)-benzoic acid methyl ester | 500 mg, 77% | COC(C1=CC=C(C=C1)OCCCCCN)=O | C13H19NO3
